US04618623
Preparation of methyl-[3-(α-isopropylbenzylidene)]-carbazate
To a solution of 44.46 g (0.3 moles) of isobutyrophenone in 200 ml of methanol 3 ml of acetic acid and 27 g of methyl carbazate are added. The reaction mixture is boiled in a flask equipped with a reflux condenser, then clarified and evaporated in vacuo to half of its original volume. The residue is cooled and the separated tallow-like product is filtered off. Yield: 64.2 g (97.3%) M.p.: 78°-80° C. The product can be recrystallized from petrol.

reactant | isobutyrophenone | 0.3 moles, 44.46 g | C(C(C)C)(=O)C1=CC=CC=C1 | C10H12O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methyl carbazate | 27 g | C(NN)(=O)OC | C2H6N2O2
solvent | methanol | 200 ml | CO | CH4O
product | methyl-[3-(α-isopropylbenzylidene)]-carbazate | COC(NN=C(C1=CC=CC=C1)C(C)C)=O | C12H16N2O2
